US07816378B2
To a solution of 3-benzyl-3-[(diphenylmethylene)amino]dihydrofuran-2(3H)-one (5.67 g, 15.95 mmol) in MeOH (50 mL) and THF (50 mL) was added 6N HCl (5.3 mL, 32 mmol). After 5 min stirring at RT, the reaction mixture was concentrated in vacuo, diluted with water and benzophenone was extracted with diethyl ether (3×). The aqueous layer was basified to pH 10 with 6N NaOH, extracted with DCM (×2), dried over sodium sulfate and concentrated in vacuo to give 3-amino-3-benzyldihydrofuran-2(3H)-one as a colorless oil, which was carried as is in the next step.

reactant | 3-benzyl-3-[(diphenylmethylene)amino]dihydrofuran-2(3H)-one | 15.95 mmol, 5.67 g | C(C1=CC=CC=C1)C1(C(OCC1)=O)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C24H21NO2
reactant | HCl | 32 mmol, 6N, 5.3 mL | Cl | ClH
solvent | MeOH | 50 mL | CO | CH4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-amino-3-benzyldihydrofuran-2(3H)-one | NC1(C(OCC1)=O)CC1=CC=CC=C1 | C11H13NO2
